OpenCircuit factory test: IRLML6401 RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8588903912976236544
* Revision: Not stated in the supplied datasheet
.model OC_KEXIN_IRLML6401 VDMOS( pchan VTO=-5.5000000000e-1 KP=4.0000000000e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=2.7500000000e-2 RS=1.0000000000e-2 RG=1.0000000000e-4 RDS=1e9 CGS=7.0500000000e-10 CGDMAX=1.2500000000e-10 CGDMIN=1.2500000000e-10 CJO=5.5000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=1.0000000000e-2)

.temp 25
M1 d1 g1 0 OC_KEXIN_IRLML6401
ID1 d1 0 DC 4.3000000000e0
VG1 g1 0 DC -4.5000000000e0
M2 d2 g2 0 OC_KEXIN_IRLML6401
ID2 d2 0 DC 2.5000000000e0
VG2 g2 0 DC -2.5000000000e0
M3 d3 g3 0 OC_KEXIN_IRLML6401
ID3 d3 0 DC 2.0000000000e0
VG3 g3 0 DC -1.8000000000e0
.op
.end
