OpenCircuit factory test: LMBT3946DW1T1G DC gain
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8586203794660577280
* Revision: Rev.B Mar 2016
.model OC_LRC_LMBT3946DW1T1G NPN(IS=6.7527523116e-15 BF=3.0771283483e2 VAF=1.0000000000e2 IKF=4.4918934557e-2 ISE=3.6242007992e-14 NE=1.5000000000e0 NF=1.0000000000e0 RB=1.0000000000e1 RC=1.0000000000e-1 RE=5.0000000000e-2 CJE=1.0000000000e-12 CJC=1.0000000000e-12 TF=1.0000000000e-9)

.temp 25
VCG1 cg1 0 DC 1.0000000000e0
IBG1 0 bg1 DC 5.1282051282e-7
QG1 cg1 bg1 0 OC_LRC_LMBT3946DW1T1G
VCG2 cg2 0 DC 1.0000000000e0
IBG2 0 bg2 DC 1.0000000000e-6
QG2 cg2 bg2 0 OC_LRC_LMBT3946DW1T1G
VCG3 cg3 0 DC 1.0000000000e0
IBG3 0 bg3 DC 2.4390243902e-6
QG3 cg3 bg3 0 OC_LRC_LMBT3946DW1T1G
VCG4 cg4 0 DC 1.0000000000e0
IBG4 0 bg4 DC 4.6511627907e-6
QG4 cg4 bg4 0 OC_LRC_LMBT3946DW1T1G
VCG5 cg5 0 DC 1.0000000000e0
IBG5 0 bg5 DC 2.1739130435e-5
QG5 cg5 bg5 0 OC_LRC_LMBT3946DW1T1G
VCG6 cg6 0 DC 1.0000000000e0
IBG6 0 bg6 DC 4.2553191489e-5
QG6 cg6 bg6 0 OC_LRC_LMBT3946DW1T1G
VCG7 cg7 0 DC 1.0000000000e0
IBG7 0 bg7 DC 8.8888888889e-5
QG7 cg7 bg7 0 OC_LRC_LMBT3946DW1T1G
VCG8 cg8 0 DC 1.0000000000e0
IBG8 0 bg8 DC 3.3333333333e-4
QG8 cg8 bg8 0 OC_LRC_LMBT3946DW1T1G
VCG9 cg9 0 DC 1.0000000000e0
IBG9 0 bg9 DC 1.3333333333e-3
QG9 cg9 bg9 0 OC_LRC_LMBT3946DW1T1G
VCG10 cg10 0 DC 1.0000000000e1
IBG10 0 bg10 DC 2.5000000000e-6
QG10 cg10 bg10 0 OC_LRC_LMBT3946DW1T1G
VCG11 cg11 0 DC 1.0000000000e0
IBG11 0 bg11 DC 1.4285714286e-5
QG11 cg11 bg11 0 OC_LRC_LMBT3946DW1T1G
VCG12 cg12 0 DC 1.0000000000e0
IBG12 0 bg12 DC 1.0000000000e-4
QG12 cg12 bg12 0 OC_LRC_LMBT3946DW1T1G
VCG13 cg13 0 DC 1.0000000000e0
IBG13 0 bg13 DC 3.3333333333e-5
QG13 cg13 bg13 0 OC_LRC_LMBT3946DW1T1G
VCG14 cg14 0 DC 1.0000000000e0
IBG14 0 bg14 DC 8.3333333333e-4
QG14 cg14 bg14 0 OC_LRC_LMBT3946DW1T1G
VCG15 cg15 0 DC 1.0000000000e0
IBG15 0 bg15 DC 3.3333333333e-3
QG15 cg15 bg15 0 OC_LRC_LMBT3946DW1T1G
.op
.end
